US07064123B1
4-(4-Methylsulfonylamino-phenyl)-4-oxo-2-benzylsulfonylmethyl-butyric acid
4-(4-Methylsulfonylamino-phenyl)-2-methylene-4-oxo-butyric acid (800 mg, 2.83 mmol) was dissolved in DMF (5 mL). Benzyl mercaptan (0.5 mL, 4.25 mmol) and DMAP (200 mg, 1.6 mmol) were added. The mixture was stirred at ambient temperature for 16 hours. Methanol (200 mL) was added and, under vigorous stirring, a saturated aqueous solution of Oxone® (15 g, 24.4 mmol) was added in one portion. Stirring was continued for 2 hours. Methanol was removed under vacuum and the aqueous residue was diluted with 100 mL water. The crystallized product, 4-(4-Methylsulfonylamino-phenyl)-4-oxo-2-benzylsulfonylmethyl-butyric acid (380 mg), was filtered, washed with water, and dried under vacuum.

reactant | 4-(4-Methylsulfonylamino-phenyl)-2-methylene-4-oxo-butyric acid | 2.83 mmol, 800 mg | CS(=O)(=O)NC1=CC=C(C=C1)C(CC(C(=O)O)=C)=O | C12H13NO5S
reactant | Benzyl mercaptan | 4.25 mmol, 0.5 mL | C(C1=CC=CC=C1)S | C7H8S
reactant | Methanol | 200 mL | CO | CH4O
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 1.6 mmol, 200 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 4-(4-Methylsulfonylamino-phenyl)-4-oxo-2-benzylsulfonylmethyl-butyric acid | CS(=O)(=O)NC1=CC=C(C=C1)C(CC(C(=O)O)CS(=O)(=O)CC1=CC=CC=C1)=O | C19H21NO7S2
